US08067420B2
Slow addition of a solution of ethyl 2-chloro-2-oxoacetate (4.69 g, 34.4 mmol) in THF (30 ml) to a solution of 1-(4-amino-2-methylphenoxy)-2-methylpropan-2-ol (6.10 g, 31.2 mmol) in THF (100 mL) resulted in formation of a precipitate as the reaction stirred at RT for 30 min. At which time a solution of Et3N (13.06 mL, 94 mmol) and 2,2-dimethoxyethanamine (3.94 g, 37.5 mmol) in EtOAc (100 mL) was added prior to heating the mixture at reflux for 25 hours. After cooling and concentration under vacuum, the residue, following dilution with CH2Cl2, was extracted with aqueous 0.5 N HCl (2×150 ml). The CH2Cl2 layer was dried over sodium sulfate and concentrated to yield N1-(2,2-dimethoxyethyl)-N2-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-oxalamide (11.40 g, 30.6 mmol, 98% yield) as white solid which was carried forward without further purification.

reactant | ethyl 2-chloro-2-oxoacetate | 34.4 mmol, 4.69 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 1-(4-amino-2-methylphenoxy)-2-methylpropan-2-ol | 31.2 mmol, 6.10 g | NC1=CC(=C(OCC(C)(O)C)C=C1)C | C11H17NO2
reactant | Et3N | 94 mmol, 13.06 mL | CCN(CC)CC | C6H15N
reactant | 2,2-dimethoxyethanamine | 37.5 mmol, 3.94 g | COC(CN)OC | C4H11NO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N1-(2,2-dimethoxyethyl)-N2-(4-(2-hydroxy-2-methylpropoxy)-3-methylphenyl)-oxalamide | 30.6 mmol, 11.40 g, 98% yield | COC(CNC(C(=O)NC1=CC(=C(C=C1)OCC(C)(C)O)C)=O)OC | C17H26N2O6
